US07005435B2
Part A. To a solution of 1.91 g of DMAP in 10 mL of methylene chloride was added 1.45 mL of trichloroacetyl chloride at 0° C. After stirring at rt for 30 min, 1.0 g of 1-(4-iodophenyl)-3-(4-morpholinyl)-5,6-dihydro-2(1H)-pyridinone was added. The reaction mixture was refluxed overnight, then quenched with water, extracted with ether. The organic layers were dried over Na2SO4 and concentrated to dryness to provide the crude product that was used in the next step without further purification. Part B. The crude material from above in a mixture of 20 mL of ether, 1 mL of water and 1 mL of conc. HCl was heated to reflux (oil bath 65° C.) for 3 h. The mixture was then allowed to cool to rt and filtered to collect the product as a solid (0.97 g, 81% in 2 steps). 1H NMR (DMSO-d6, 300 MHz) δ 7.79 (2H, d, J=8.7 Hz), 7.25 (2H, d, J=8.7 Hz), 3.89 (2H, t, J=6.2 Hz), 2.92 (2H, t, J=6.2 Hz) ppm. Part C. A mixture of the “trione” made above (0.5 g, 1.09 mmol), p-methoxyphenylhyrazine HCl salt (0.152 g, 1.09 mmol) in 20 mL of THF was treated with 0.30 mL of triethylamine at rt overnight. To the reaction mixture was added 20 mL of 1N HCl. The resulting mixture was refluxed for 2 h. After cooling to rt, the compound was collected by filtration (0.42 g, 84%). 1H NMR (DMSO-d6, 300 MHz) δ 8.78 (1H, s), 8.26 (2H, m), 7.92 (2H, m), 7.72 (2H, m), 7.46 (2H, m), 4.59 (2H, m) 4.09 (3H, s), 3.42 (2H, m) ppm. LRMS (AP+) 462 (M++1). Part D. To a solution of the hydroxy compound (1.78 g, 3.86 mmol) in 20 mL of DMF was added sodium hydride (232 mg, 60%, 5.79 mmol) at 0° C. The mixture was stirred at rt for 30 min. To the reaction mixture was added MeI (0.36 mL, 5.79 mmol). The reaction was stirred at rt overnight, then quenched with water, extracted with ether. The organic layers were dried over Na2SO4, concentrated to dry. The residue was purified by column chromatography to yield -(4-iodophenyl)-3-methoxy-1-(4-methoxyphenyl)-1,4,5,6-tetrahydro-7H-pyrazolo[3,4-c]pyridin-7-one (1.67 g, 91%). 1H NMR (DMSO-d6, 300 MHz) δ 7.67 (2H, d, J=8.8 Hz), 7.43 (2H, d, J=9.1 Hz), 7.07 (2H, d, J=8.8 Hz), 6.90 (2H, d, J=9.1 Hz), 4.02 (5H, m, with a three proton singlet), 3.80 (3H, s), 2.90 (2H, d, J=6.6 Hz) ppm. Part E. An oven-dried flask was charged with 0.28 g of 6-(4-iodophenyl)-3-methoxy-1-(4-methoxyphenyl)-1,4,5,6-tetrahydro-7H-pyrazolo[3,4-c]pyridin-7-one, 90 mg of δ-valerolactam, and 70 mg of anhydrous (powdered) potassium carbonate. The solids were dissolved in 3 mL of degassed DMSO, after which 20 mg of copper (I) iodide was added. The flask was fitted with a reflux condenser and heated to 120° C. while stirring for 12 h. The reaction was cooled to rt, then quenched by the addition of water. Product was extracted into ethyl acetate, which was then dried over Na2SO4 and concentrated to yield a yellow solid. The residue was purified by HPLC to yield 50 mg of the title compound as a TFA salt (15% yield). 1H NMR (MeOH-d4, 300 MHz) δ 7.38 (2H, d, J=1.5 Hz), 7.35 (2H, d, J=1.5 Hz), 7.28 (2H, d, J=10 Hz), 6.92 (2H, d, J=10 Hz), 4.06 (2H, t, J=7.0 Hz), 3.96 (3H, s), 3.79 (3H, s), 3.64 (2H, t, J=5.9 Hz), 2.89 (3H, t, J=7.0), 2.49 (3H, t, J=5.9 Hz), 1.94 (4H, m) ppm.

reactant | trichloroacetyl chloride | 1.45 mL | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
reactant | 1-(4-iodophenyl)-3-(4-morpholinyl)-5,6-dihydro-2(1H)-pyridinone | 1.0 g | IC1=CC=C(C=C1)N1C(C(=CCC1)N1CCOCC1)=O | C15H17IN2O2
reactant | p-methoxyphenylhyrazine HCl salt | 1.09 mmol, 0.152 g | Cl.COC1=CC=C(C=C1)NN
reactant | HCl | 1N, 20 mL | Cl | ClH
reactant | sodium hydride | 5.79 mmol, 232 mg | [H-].[Na+]
reactant | MeI | 5.79 mmol, 0.36 mL | CI | CH3I
reactant | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | DMAP | 1.91 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | triethylamine | 0.30 mL | C(C)N(CC)CC | C6H15N
product | (4-iodophenyl)-3-methoxy-1-(4-methoxyphenyl)-1,4,5,6-tetrahydro-7H-pyrazolo[3,4-c]pyridin-7-one | 1.67 g, 91% | IC1=CC=C(C=C1)C1C2=C(C(NC1)=O)N(N=C2OC)C2=CC=C(C=C2)OC | C20H18IN3O3
